US04816452
a. Ethyl-2-(2-aminothiazol-4-yl)-(Z)-2-cyclopropylmethoxyiminoacetate
Ethyl (Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetate (2.39 g) was dissolved in 98% formic acid (18.7 ml), water (5.6 ml) was added, and the mixture vigorously stirred. After 6 h the solvents were evaporated, toluene added to the residue and the process repeated. This was done twice more. The residual solid was chromatographed on silica to give the title compound as a white solid (1.17 g), νmax (Nujol) 3440, 3250, 3120, 1720, and 1620 cm-1 ; δH (CDCl3) inter alia 1.35 (3H, t, J 7 Hz), 4.0 (2H, d, J 7 Hz), 4.37 (2H, q, J 7 Hz), 5.4 (2H, broad s, exch. D2O), and 6.67 (1H, s).

reactant | Ethyl (Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetate | 2.39 g | C1(CC1)CO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N3O3S
reactant | water | 5.6 ml | O | H2O
solvent | formic acid | 18.7 ml | C(=O)O | CH2O2
product | Ethyl-2-(2-aminothiazol-4-yl)-(Z)-2-cyclopropylmethoxyiminoacetate | 1.17 g | C(C)OC(\C(=N/OCC1CC1)\C=1N=C(SC1)N)=O | C11H15N3O3S
